*  
* Diode Model Produced by Altium Ltd  
* Date:  5-Apr-2004 
*  
* Manufacturer: Agilent  
* Component Name: HDSP_433G  
*  
* Parameters derived from information available in data sheet.  
*
*                 common-cathode-1
*                 |  anode-e
*                 |  |  anode-c
*                 |  |  |  anode-d
*                 |  |  |  |  common-cathode-2
*                 |  |  |  |  |  anode-DP
*                 |  |  |  |  |  |  common-cathode-3
*                 |  |  |  |  |  |  |  anode-g
*                 |  |  |  |  |  |  |  |  anode-b
*                 |  |  |  |  |  |  |  |  |  anode-a
*                 |  |  |  |  |  |  |  |  |  |  common-cathode-L
*                 |  |  |  |  |  |  |  |  |  |  |  anode-f
*                 |  |  |  |  |  |  |  |  |  |  |  |
.SUBCKT HDSP_433G 1  2  3  4  5  6  7  8  11 12 14 15

DA1   12  1  dHDSP_433G
DB1   11  1  dHDSP_433G
DC1    3  1  dHDSP_433G
DD1    4  1  dHDSP_433G
DE1    2  1  dHDSP_433G
DF1   15  1  dHDSP_433G
DG1    8  1  dHDSP_433G
DDP1   6  1  dHDSP_433G

DL1   12 14  dHDSP_433G
DL2   11 14  dHDSP_433G
DL3    3 14  dHDSP_433G

DA2   12  5  dHDSP_433G
DB2   11  5  dHDSP_433G
DC2    3  5  dHDSP_433G
DD2    4  5  dHDSP_433G
DE2    2  5  dHDSP_433G
DF2   15  5  dHDSP_433G
DG2    8  5  dHDSP_433G
DDP2   6  5  dHDSP_433G

DA3   12  7  dHDSP_433G
DB3   11  7  dHDSP_433G
DC3    3  7  dHDSP_433G
DD3    4  7  dHDSP_433G
DE3    2  7  dHDSP_433G
DF3   15  7  dHDSP_433G
DG3    8  7  dHDSP_433G
DDP3   6  7  dHDSP_433G

.MODEL dHDSP_433G D
+ (  
+     IS = 5.45751596E-12 
+      N = 3.47011329 
+     RS = 12.18613587 
+     BV = 4.8 
+    IBV = 100u 
+ )  

.ENDS HDSP_433G