*  
* Diode Model Produced by Altium Ltd  
* Date:  7-Apr-2004 
*  
* Manufacturer: Agilent  
* Component Name: HDSP-521G  
*  
* Parameters derived from information available in data sheet.  
*  
*                 E-cathode-1
*                 |  D-cathode-1
*                 |  |  C-cathode-1
*                 |  |  |  DP-cathode-1
*                 |  |  |  |  E-cathode-2
*                 |  |  |  |  |  D-cathode-2
*                 |  |  |  |  |  |  G-cathode-2
*                 |  |  |  |  |  |  |  C-cathode-2
*                 |  |  |  |  |  |  |  |  DP-cathode-2
*                 |  |  |  |  |  |  |  |  |  B-cathode-2
*                 |  |  |  |  |  |  |  |  |  |  A-cathode-2
*                 |  |  |  |  |  |  |  |  |  |  |  F-cathode-2
*                 |  |  |  |  |  |  |  |  |  |  |  |  common-anode-2
*                 |  |  |  |  |  |  |  |  |  |  |  |  |  common-anode-1
*                 |  |  |  |  |  |  |  |  |  |  |  |  |  |  B-cathode-1
*                 |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  A-cathode-1
*                 |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  G-cathode-1
*                 |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  F-cathode-1
*                 |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  |
.SUBCKT HDSP_521G 1  2  3  4  5  6  7  8  9  10 11 12 13 14 15 16 17 18

DA1  14 16 dHDSP_521G
DB1  14 15 dHDSP_521G
DC1  14  3 dHDSP_521G
DD1  14  2 dHDSP_521G
DE1  14  1 dHDSP_521G
DF1  14 18 dHDSP_521G
DG1  14 17 dHDSP_521G
DDP1 14  4 dHDSP_521G

DA2  13 11 dHDSP_521G
DB2  13 10 dHDSP_521G
DC2  13  8 dHDSP_521G
DD2  13  6 dHDSP_521G
DE2  13  5 dHDSP_521G
DF2  13 12 dHDSP_521G
DG2  13  7 dHDSP_521G
DDP2 13  9 dHDSP_521G

.MODEL dHDSP_521G D
+ (  
+     IS = 1.61114016E-27 
+      N = 1.30291189 
+     RS = 12.83456794 
+     BV = 50 
+    IBV = 100u 
+ )  

.ENDS HDSP_521G