*  
* Diode Model Produced by Altium Ltd  
* Date:  7-Apr-2004 
*  
* Manufacturer: Agilent  
* Component Name: HDSP-523G  
*  
* Parameters derived from information available in data sheet.  
*  
*                 E-anode-1
*                 |  D-anode-1
*                 |  |  C-anode-1
*                 |  |  |  DP-anode-1
*                 |  |  |  |  E-anode-2
*                 |  |  |  |  |  D-anode-2
*                 |  |  |  |  |  |  G-anode-2
*                 |  |  |  |  |  |  |  C-anode-2
*                 |  |  |  |  |  |  |  |  DP-anode-2
*                 |  |  |  |  |  |  |  |  |  B-anode-2
*                 |  |  |  |  |  |  |  |  |  |  A-anode-2
*                 |  |  |  |  |  |  |  |  |  |  |  F-anode-2
*                 |  |  |  |  |  |  |  |  |  |  |  |  common-cathode-2
*                 |  |  |  |  |  |  |  |  |  |  |  |  |  common-cathode-1
*                 |  |  |  |  |  |  |  |  |  |  |  |  |  |  B-anode-1
*                 |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  A-anode-1
*                 |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  G-anode-1
*                 |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  F-anode-1
*                 |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  |
.SUBCKT HDSP_523G 1  2  3  4  5  6  7  8  9  10 11 12 13 14 15 16 17 18

DA1  16 14 dHDSP_523G
DB1  15 14 dHDSP_523G
DC1   3 14 dHDSP_523G
DD1   2 14 dHDSP_523G
DE1   1 14 dHDSP_523G
DF1  18 14 dHDSP_523G
DG1  17 14 dHDSP_523G
DDP1  4 14 dHDSP_523G

DA2  11 13 dHDSP_523G
DB2  10 13 dHDSP_523G
DC2   8 13 dHDSP_523G
DD2   6 13 dHDSP_523G
DE2   5 13 dHDSP_523G
DF2  12 13 dHDSP_523G
DG2   7 13 dHDSP_523G
DDP2  9 13 dHDSP_523G

.MODEL dHDSP_523G D
+ (  
+     IS = 1.61114016E-27 
+      N = 1.30291189 
+     RS = 12.83456794 
+     BV = 50 
+    IBV = 100u 
+ )  

.ENDS HDSP_523G