*  
* Diode Model Produced by Altium Ltd  
* Date:  7-Apr-2004 
*  
* Manufacturer: Agilent  
* Component Name: HDSP-523Y  
*  
* Parameters derived from information available in data sheet.  
*  
*                 E-anode-1
*                 |  D-anode-1
*                 |  |  C-anode-1
*                 |  |  |  DP-anode-1
*                 |  |  |  |  E-anode-2
*                 |  |  |  |  |  D-anode-2
*                 |  |  |  |  |  |  G-anode-2
*                 |  |  |  |  |  |  |  C-anode-2
*                 |  |  |  |  |  |  |  |  DP-anode-2
*                 |  |  |  |  |  |  |  |  |  B-anode-2
*                 |  |  |  |  |  |  |  |  |  |  A-anode-2
*                 |  |  |  |  |  |  |  |  |  |  |  F-anode-2
*                 |  |  |  |  |  |  |  |  |  |  |  |  common-cathode-2
*                 |  |  |  |  |  |  |  |  |  |  |  |  |  common-cathode-1
*                 |  |  |  |  |  |  |  |  |  |  |  |  |  |  B-anode-1
*                 |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  A-anode-1
*                 |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  G-anode-1
*                 |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  F-anode-1
*                 |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  |
.SUBCKT HDSP_523Y 1  2  3  4  5  6  7  8  9  10 11 12 13 14 15 16 17 18

DA1  16 14 dHDSP_523Y
DB1  15 14 dHDSP_523Y
DC1   3 14 dHDSP_523Y
DD1   2 14 dHDSP_523Y
DE1   1 14 dHDSP_523Y
DF1  18 14 dHDSP_523Y
DG1  17 14 dHDSP_523Y
DDP1  4 14 dHDSP_523Y

DA2  11 13 dHDSP_523Y
DB2  10 13 dHDSP_523Y
DC2   8 13 dHDSP_523Y
DD2   6 13 dHDSP_523Y
DE2   5 13 dHDSP_523Y
DF2  12 13 dHDSP_523Y
DG2   7 13 dHDSP_523Y
DDP2  9 13 dHDSP_523Y

.MODEL dHDSP_523Y D
+ (  
+     IS = 1.82902372E-24 
+      N = 1.34581490 
+     RS = 23.36447097 
+     BV = 40 
+    IBV = 100u 
+ ) 

.ENDS HDSP_523Y