*  
* Diode Model Produced by Altium Ltd  
* Date:  7-Apr-2004 
*  
* Manufacturer: Agilent  
* Component Name: HDSP-8606  
*  
* Parameters derived from information available in data sheet.  
* 
*                 cathode-a 
*                 |  anode-d 
*                 |  |  cathode-d 
*                 |  |  |  cathode-c 
*                 |  |  |  |  cathode-e 
*                 |  |  |  |  |  anode-e 
*                 |  |  |  |  |  |  cathode-DP 
*                 |  |  |  |  |  |  |  anode-DP 
*                 |  |  |  |  |  |  |  |  cathode-DP 
*                 |  |  |  |  |  |  |  |  |  cathode-b 
*                 |  |  |  |  |  |  |  |  |  |  anode-b 
*                 |  |  |  |  |  |  |  |  |  |  |  anode-c 
*                 |  |  |  |  |  |  |  |  |  |  |  |  anode-a 
*                 |  |  |  |  |  |  |  |  |  |  |  |  |  cathode-a
*                 |  |  |  |  |  |  |  |  |  |  |  |  |  |
.SUBCKT HDSP_8606 2  3  4  5  6  7  8  10 11 12 13 14 15 17

DA1  15  2 dHDSP_8606
DA2  15 17 dHDSP_8606
DB   13 12 dHDSP_8606
DC   14  5 dHDSP_8606
DD    3  4 dHDSP_8606
DE    7  6 dHDSP_8606
DDP1 10  8 dHDSP_8606
DDP2 10 11 dHDSP_8606
 
.MODEL dHDSP_8606 D
+ (  
+     IS = 3.97670539E-22 
+      N = 1.67603447 
+     RS = 9.10910000 
+     BV = 50
+    IBV = 100u 
+ ) 

.ENDS HDSP_8606