*  
* Diode Model Produced by Altium Ltd  
* Date:  7-Apr-2004 
*  
* Manufacturer: Agilent  
* Component Name: HDSP-A108  
*  
* Parameters derived from information available in data sheet.  
* 
*                 common-cathode
*                 |  anode-PLUS
*                 |  |  anode-MINUS
*                 |  |  |  common-cathode
*                 |  |  |  |  anode-DP
*                 |  |  |  |  |  anode-c
*                 |  |  |  |  |  |  anode-b
*                 |  |  |  |  |  |  |
.SUBCKT HDSP_A108 1  2  3  6  7  8  9

DPLUS1  2  1 dHDSP_A108
DMINUS1 3  1 dHDSP_A108
DB1     9  1 dHDSP_A108
DC1     8  1 dHDSP_A108
DDP1    7  1 dHDSP_A108

DPLUS2  2  6 dHDSP_A108
DMINUS2 3  6 dHDSP_A108
DB2     9  6 dHDSP_A108
DC2     8  6 dHDSP_A108
DDP2    7  6 dHDSP_A108
 
.MODEL dHDSP_A108 D
+ (  
+    IS  = 2.08276754E-16 
+     N  = 2.17799178 
+    RS  = 0.50892350
+    BV  = 14.25
+   IBV  = 100u
+ ) 

.ENDS HDSP_A108 