*  
* Diode Model Produced by Altium Ltd  
* Date:  7-Apr-2004 
*  
* Manufacturer: Agilent  
* Component Name: HDSP-A907  
*  
* Parameters derived from information available in data sheet.  
* 
*                 common-anode
*                 |  cathode-PLUS
*                 |  |  cathode-MINUS
*                 |  |  |  common-anode
*                 |  |  |  |  cathode-DP
*                 |  |  |  |  |  cathode-c
*                 |  |  |  |  |  |  cathode-b
*                 |  |  |  |  |  |  |
.SUBCKT HDSP_A907 1  2  3  6  7  8  9

DPLUS1  1  2 dHDSP_A907
DMINUS1 1  3 dHDSP_A907
DB1     1  9 dHDSP_A907
DC1     1  8 dHDSP_A907
DDP1    1  7 dHDSP_A907

DPLUS2  6  2 dHDSP_A907
DMINUS2 6  3 dHDSP_A907
DB2     6  9 dHDSP_A907
DC2     6  8 dHDSP_A907
DDP2    6  7 dHDSP_A907
 
.MODEL dHDSP_A907 D
+ (  
+     IS = 1.37135099E-36 
+      N = 0.94257009 
+     RS = 17.99091536 
+     BV = 30
+    IBV = 100u 
+ )  

.ENDS HDSP_A907 