*  
* Diode Model Produced by Altium Ltd  
* Date:  11-Mar-2004 
*  
* Manufacturer: Agilent  
* Component Name: HDSP-A22C  
*  
* Parameters derived from information available in data sheet.  
* 
*                 1E/2E Cathode  
*                 |  1M/2M Cathode  
*                 |  |  1L/2L Cathode
*                 |  |  |  1K/2K Cathode
*                 |  |  |  |  1J/2J Cathode
*                 |  |  |  |  |  1D/2D Cathode
*                 |  |  |  |  |  |  DP1 Cathode
*                 |  |  |  |  |  |  |  1C/2C Cathode
*                 |  |  |  |  |  |  |  |  1B/2B Cathode
*                 |  |  |  |  |  |  |  |  |  DIGIT No. 2 Common Anode
*                 |  |  |  |  |  |  |  |  |  |  1A/2A Cathode
*                 |  |  |  |  |  |  |  |  |  |  |  1N/2N Cathode
*                 |  |  |  |  |  |  |  |  |  |  |  |  1H/2H Cathode
*                 |  |  |  |  |  |  |  |  |  |  |  |  |  1G/2G Cathode
*                 |  |  |  |  |  |  |  |  |  |  |  |  |  |  DIGIT No. 1 Common Anode
*                 |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  1P/2P Cathode
*                 |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  1F/2F Cathode
*                 |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  |
.SUBCKT HDSP_A22C 1  2  4  5  6  7  8  9  10 11 12 13 14 15 16 17 18

DA1  16  12  dHDSP_A22C
DB1  16  10  dHDSP_A22C
DC1  16   9  dHDSP_A22C
DD1  16   7  dHDSP_A22C
DE1  16   1  dHDSP_A22C
DF1  16  18  dHDSP_A22C
DG1  16  15  dHDSP_A22C
DH1  16  14  dHDSP_A22C
DJ1  16   6  dHDSP_A22C
DK1  16   5  dHDSP_A22C
DL1  16   4  dHDSP_A22C
DM1  16   2  dHDSP_A22C
DN1  16  13  dHDSP_A22C
DP1  16  17  dHDSP_A22C
DDP1 16   8  dHDSP_A22C

DA2  11  12  dHDSP_A22C
DB2  11  10  dHDSP_A22C
DC2  11   9  dHDSP_A22C
DD2  11   7  dHDSP_A22C
DE2  11   1  dHDSP_A22C
DF2  11  18  dHDSP_A22C
DG2  11  15  dHDSP_A22C
DH2  11  14  dHDSP_A22C
DJ2  11   6  dHDSP_A22C
DK2  11   5  dHDSP_A22C
DL2  11   4  dHDSP_A22C
DM2  11   2  dHDSP_A22C
DN2  11  13  dHDSP_A22C
DP2  11  17  dHDSP_A22C
DDP2 11   8  dHDSP_A22C

.MODEL dHDSP_A22C D
+ (  
+    IS = 2.34165185E-18 
+     N = 1.64080796 
+    RS = 5.35791037 
+    BV = 4.5
+   IBV = 100u
+ )  

.ENDS HDSP_A22C